US07713993B2
Hydrazine (1.2 g) was added to a solution of ethyl 5-chloro-2-cyano-2-phenylpentanoate (CAS No. 52370-87-3, 1 g) in ethanol (5 mL), and the reaction solution was stirred at room temperature for one hour. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was filtered through a silica gel, and the filtrate was concentrated under reduced pressure to obtain a crude product of 5-chloro-2-cyano-2-phenylpentanoic acid hydrazide.

reactant | Hydrazine | 1.2 g | NN | H4N2
reactant | ethyl 5-chloro-2-cyano-2-phenylpentanoate | ClCCCC(C(=O)OCC)(C1=CC=CC=C1)C#N | C14H16ClNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-chloro-2-cyano-2-phenylpentanoic acid hydrazide | ClCCCC(C(=O)NN)(C1=CC=CC=C1)C#N | C12H14ClN3O
